US09328116B2
Sodium azide (610 mg in 2.5 mL of H2O, 9.39 mmol) was added to a cooled (0° C.) solution of 1-(4-chlorophenyl)-5-isopropyl-triazole-4-carbonyl chloride in acetone (7.5 mL). The resulting mixture was stirred at room temperature for 30 min, diluted with CH2Cl2 (100 mL), washed with water (50 mL) and brine (50 mL), dried (MgSO4), and concentrated in vacuo to give the crude 1-(4-chlorophenyl)-5-isopropyl-triazole-4-carbonyl azide (777 mg) which was used in the next step without further purification.

reactant | Sodium azide | 9.39 mmol, 2.5 mL, 610 mg | [N-]=[N+]=[N-].[Na+]
reactant | 1-(4-chlorophenyl)-5-isopropyl-triazole-4-carbonyl chloride | ClC1=CC=C(C=C1)N1N=NC(=C1C(C)C)C(=O)Cl | C12H11Cl2N3O
solvent | acetone | 7.5 mL | CC(=O)C | C3H6O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenyl)-5-isopropyl-triazole-4-carbonyl azide | 777 mg | ClC1=CC=C(C=C1)N1N=NC(=C1C(C)C)C(=O)N=[N+]=[N-] | C12H11ClN6O
